US05605910
C. 1-Aminomethyl-4-azatricyclo[5.2.2.02,6 ]undecane
7.4 g (27.5 mmol) of 1-aminomethyl-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene are hydrogenated in 100 ml of tetrahydrofuran using 1.5 g of palladium/active charcoal at 100° C./100 bar. The catalyst is filtered off with suction and the residue is distilled.

reactant | 1-aminomethyl-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene | 27.5 mmol, 7.4 g | NCC12C3CN(CC3C(C=C1)CC2)CC2=CC=CC=C2 | C18H24N2
solvent | tetrahydrofuran | 100 ml, 1.5 g | O1CCCC1 | C4H8O
catalyst | palladium | [Pd] | Pd
product | 1-Aminomethyl-4-azatricyclo[5.2.2.02,6 ]undecane | NCC12C3CNCC3C(CC1)CC2 | C11H20N2
